US07396836B2
5-[2-Amino-4-(2-furyl)-5-pyrimidinyl]-1-(3-thienyl)-1,2-dihydro-2-pyridinone
In a reaction vessel, 5-[2-amino-4-(2-furyl)-5-pyrimidinyl]-1,2-dihydro-2-pyridinone (50 mg, 0.197 mmol), thiophene-3-boronic acid (50 mg, 0.393 mmol), and copper acetate (4 mg, 0.0197 mmol) were suspended in N,N-dimethylformamide (3 ml). Pyridine (31 mg, 0.393 mmol) was added thereto, followed by stirring at room temperature for 14.5 hours in the air. After the reaction was terminated, the mixture was concentrated and suspended in dimethylsulfoxide. Subsequently, the insoluble matters were removed by filtration and the resulting filtrate was purified by HPLC, to give the title compound (34 mg, 51%) as a pale yellow solid.

reactant | 5-[2-amino-4-(2-furyl)-5-pyrimidinyl]-1,2-dihydro-2-pyridinone | 0.197 mmol, 50 mg | NC1=NC=C(C(=N1)C=1OC=CC1)C=1C=CC(NC1)=O | C13H10N4O2
reactant | thiophene-3-boronic acid | 0.393 mmol, 50 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | Pyridine | 0.393 mmol, 31 mg | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
catalyst | copper acetate | 0.0197 mmol, 4 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 5-[2-Amino-4-(2-furyl)-5-pyrimidinyl]-1-(3-thienyl)-1,2-dihydro-2-pyridinone | 34 mg, 51% | NC1=NC=C(C(=N1)C=1OC=CC1)C=1C=CC(N(C1)C1=CSC=C1)=O | C17H12N4O2S
